### PR TITLE
feat(PBV): Expand tactic to handle multiple widths

### PR DESCRIPTION
**Pull request by luigirinaldi**
`pbv_decide` now handles sign and zero extensions, on top of addition.

- Tactic
  - Update the tactic logic to traverse the AST of the goal to extract bitvector widths and variables. 
    - This is instead of simply looking for widths in the local context, potentially missing widths defined in intermediate expressions
  - Apply the `var_elim` theorem after having collected all `BitVec` expressions
- Width preconditions
  - Translate preconditions on the widths by introducing them into the goal and rewriting them during the same `simp` pass
  - Introduce new theorems in `push` to translate width conditions into mask conditions
- Other:
  - Remove `def IsMask`, was redundant and only added extra steps for the tactic. 
  - Redefine `eq_iff` and other theorems in `Push.lean` to make the width bound variable `o` explicit, as it has to be bound in order for the `simp` based rewriting to succeed.

### CODE REVIEW

File: Veir/Meta/PBVDecide.lean [hunk 1]
```diff
@@ -32,38 +39,67 @@ meta structure PbvTranslateContext where
...
-    throwError "unable to find a valid width variable."
+meta def localDecl? (e : Expr) : MetaM (Option LocalDecl) := do
+  let some fvarId := e.fvarId? | return none
+  return (← getLCtx).find? fvarId
+
+meta def introMaskWidth (ctx : PbvTranslateContext) (g : MVarId) (widthExpr : Expr) (infos : WidthInfos)
+  : MetaM (MVarId × WidthInfo × WidthInfos) := g.withContext do
+    -- Retrieve the ldecl from the context.
+    let ldeclOpt ← localDecl? widthExpr
+    let name := if let some ldecl := ldeclOpt then ldecl.userName else (Name.mkSimple "widthVar")
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean]: I'd collapse this entire thing into a helper, since `ldeclOpt` is only used to compute `name`!

File: Veir/Meta/PBVDecide.lean [hunk 2]
```diff
@@ -84,63 +120,169 @@ meta structure BitVecInfos where
...
+within the `WidthInfos` set, then duplicate the hypothesis and add it to the
+goal. This allows for a single call to Simp later.
+-/
+meta def translateWidthPrecond (winfos : WidthInfos) (g : MVarId) (ldecl : LocalDecl)
+    : MetaM (MVarId) := g.withContext do
+  if let some (ea, eb) := matchWidthRel ldecl.type then
+    let some wa ← winfos.get? ea | return g
+    let some wb ← winfos.get? eb | return g
+    let (natHyp, g) ← g.withContext do g.note (Name.mkSimple s!"bv_{wa.widthName}_{wb.widthName}") ldecl.toExpr
+    let (#[_], g) ← g.revert #[natHyp] | throwError "Reverting shuold produce a single FVar."
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
    let (#[_], g) ← g.revert #[natHyp] | throwError m!"Reverting {natHyp} in goal should produce a single FVar. {g}"
```

File: Veir/Meta/PBVDecide.lean [hunk 3]
```diff
@@ -84,63 +120,169 @@ meta structure BitVecInfos where
...
+        ``Nat_ge_eq_Mask_ge,
+        ``Nat_gt_eq_Mask_gt,
+        ``msb_eq_and_signBitOfMask_maskOfWidth_ne_zero
+  ]
+
+  thms.foldlM (init := simp) fun simps name =>
+    return ← simps.addTheorem (.other name) <| ← mkAppM name #[mkNatLit ctx.bmcBound]
+
+/--
+Add theorems to the Simp theorem context that push the `setWidth`s in.
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean:267]:
```suggestion
Add theorems to the Simp theorem context that push the `setWidth`s in.
TODO: This will be changed into a simp-set to allow user-extensible push lemmas.
```

File: Veir/Data/PBV/Push.lean [hunk 4]
```diff
@@ -16,12 +16,46 @@ public section
...
 
-theorem eq_iff {w o : Nat} (h : w ≤ o) :
+theorem eq_iff (o : Nat) {w : Nat} (h : w ≤ o) :
     ∀ (a b : BitVec w), (a = b) = (a.setWidth o = b.setWidth o) := by
   intro a b
   apply propext
   exact ⟨fun hab => hab ▸ rfl, fun hab => BitVec.setWidth_inj h hab⟩
 
+/-- LT on the widths translates to the masks. -/
+theorem Nat_lt_eq_Mask_lt (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```
Comment (bollu) [inline Veir/Data/PBV/Push.lean]:
```suggestion
theorem lt_eq_lt_of_eq_maskOfWidth (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```

File: Veir/Data/PBV/Push.lean [hunk 5]
```diff
@@ -16,12 +16,46 @@ public section
...
+    (w₁ < w₂) = (m₁ < m₂) := by
+  subst m₁ m₂
+  rw [eq_iff_iff, BitVec.lt_def, toNat_maskOfWidth h₁, toNat_maskOfWidth h₂,
+      ← Nat.pow_lt_pow_iff_right (a := 2) (by lia)]
+  have := Nat.two_pow_pos w₁
+  have := Nat.two_pow_pos w₂
+  lia
+
+/-- LE on the widths translates to the masks. -/
+theorem Nat_le_eq_Mask_le (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```
Comment (bollu) [inline Veir/Data/PBV/Push.lean]:
```suggestion
theorem le_eq_le_of_eq_maskOfWidth (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```

File: Veir/Data/PBV/Push.lean [hunk 6]
```diff
@@ -16,12 +16,46 @@ public section
...
+    (w₁ ≤ w₂) = (m₁ ≤ m₂) := by
+  subst m₁ m₂
+  rw [eq_iff_iff, BitVec.le_def, toNat_maskOfWidth h₁, toNat_maskOfWidth h₂,
+      ← Nat.pow_le_pow_iff_right (a := 2) (by lia)]
+  have := Nat.two_pow_pos w₁
+  have := Nat.two_pow_pos w₂
+  lia
+
+/-- GE on the widths translates to the masks. -/
+theorem Nat_ge_eq_Mask_ge (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```
Comment (bollu) [inline Veir/Data/PBV/Push.lean]:
```suggestion
theorem ge_eq_eq_of_eq_maskOfWidth (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```

File: Veir/Data/PBV/Push.lean [hunk 7]
```diff
@@ -16,12 +16,46 @@ public section
...
+    (hm₁ : m₁ = maskOfWidth o w₁) (hm₂ : m₂ = maskOfWidth o w₂) :
+    (w₁ ≥ w₂) = (m₁ ≥ m₂) := by
+  grind [Nat_le_eq_Mask_le]
+
+/-- GT on the widths translates to the masks. -/
+theorem Nat_gt_eq_Mask_gt (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```
Comment (bollu) [inline Veir/Data/PBV/Push.lean]:
```suggestion
theorem gt_eq_gt_of_eq_maskOfWidth (o : Nat) {w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
```

File: Veir/Meta/PBVDecide.lean [hunk 8]
```diff
@@ -1,29 +1,36 @@
...
+  /-- The Expr corresponding to this width. -/
+  widthExpr : Expr
   /-- The FVarId corresponding to the new mask variable for this width. -/
   widthMaskFvar : FVarId
   /-- The FVarId of the pure-BV hypothesis that this width is a mask variable. -/
   widthMaskHypFvar : FVarId
   /-- The hypothesis that the width variable is less than the bmc bound. -/
-  hypWidthLeBound : MVarId
+  hypWidthLeBoundMVarId : MVarId
+  /-- The FVar of the bound hypothesis, necessary so 'simp' rewrites with it. -/
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
  /--
  The FVar of the bound hypothesis, necessary so 'simp' rewrites with it.
  TODO: it's not clear why we need a `FVar` for `simp` to decide to rewrite with it.
  -/
```

File: Veir/Meta/PBVDecide.lean [hunk 9]
```diff
@@ -32,38 +39,66 @@ meta structure PbvTranslateContext where
...
+meta def localDecl? (e : Expr) : MetaM (Option LocalDecl) := do
+  let some fvarId := e.fvarId? | return none
+  return (← getLCtx).find? fvarId
+
+meta def introMaskWidth (ctx : PbvTranslateContext) (g : MVarId) (widthExpr : Expr) (infos : WidthInfos)
+  : MetaM (MVarId × WidthInfo × WidthInfos) := g.withContext do
+    -- Retrieve the ldecl from the context.
+    let name := if let some ldecl := (← localDecl? widthExpr) then ldecl.userName else (Name.mkSimple "widthVar")
+    -- Check that the Expr is of type Nat.
+    if (← inferType widthExpr) != (mkConst ``Nat) then
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean]: There should be some `Expr.isNat` or sth like this, instead of directly making a const and comparing it. Find it!

File: Veir/Meta/PBVDecide.lean [hunk 10]
```diff
@@ -32,38 +39,66 @@ meta structure PbvTranslateContext where
...
+      throwError s!"`BitVec` width {widthExpr} is not a `Nat`"
+
+    let [g] ← g.withContext do
+      g.apply <| ← mkAppM ``width_elim #[mkNatLit ctx.bmcBound, widthExpr, ← g.getType]
+      | throwError "width_elim should generate a goal"
+    -- Intros
+    let maskName := Name.mkSimple s!"m{name}"
+    let (mask, g) ← g.withContext do g.intro maskName
+    let (maskHyp, g) ← g.withContext do g.intro (Name.mkSimple s!"h_{maskName}")
+    -- Define bounding conditions.
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean:66]:
```suggestion
    -- TODO: Can also be done with a `g.let ...`
    let [g] ← g.withContext do
      g.apply <| ← mkAppM ``width_elim #[mkNatLit ctx.bmcBound, widthExpr, ← g.getType]
      | throwError "width_elim should generate a goal"
    -- Intros
    let maskName := Name.mkSimple s!"m{name}"
    let (mask, g) ← g.withContext do g.intro maskName
    let (maskHyp, g) ← g.withContext do g.intro (Name.mkSimple s!"h_{maskName}")
    -- Define bounding conditions.
```

File: Veir/Meta/PBVDecide.lean [hunk 11]
```diff
@@ -32,38 +39,66 @@ meta structure PbvTranslateContext where
...
+    let hypWidthLeBound ← g.withContext do
+      -- Add a meaninful name using : (userName := Name.mkSimple "foo")
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean]:
```suggestion
```

File: Veir/Meta/PBVDecide.lean [hunk 12]
```diff
@@ -84,63 +119,169 @@ meta structure BitVecInfos where
...
 
+/--
+Match on an expression, and if it is a `BitVec w`, return the `w`.
+Otherwise, return `none`.
+-/
+meta def getBitvecType? (e : Expr) : Option Expr :=
+  match_expr e with
+  | BitVec w => some w
+  | _ => none
+
```
Comment (bollu) [inline Veir/Meta/PBVDecide.lean:133]: This already exists somewhere in `Lean.Meta.<somewhere>`. Please find it, and if you fail to find it, lmk

Comment (luigirinaldi) [reply Veir/Meta/PBVDecide.lean:133]: Doesn't exist, keeping as is

File: Veir/Meta/PBVDecide.lean (hunk 10 above)
Comment (luigirinaldi) [reply Veir/Meta/PBVDecide.lean:66]: we'd also have to introduce this `m = maskOfWidth o w`, so keeping it all in the theorem is cleaner I think

File: Veir/Meta/PBVDecide.lean (hunk 3 above)
Comment (luigirinaldi) [reply Veir/Meta/PBVDecide.lean:267]: I have this in a later comment in the body

File: Veir/Data/PBV/Mask.lean [hunk 13]
```diff
@@ -43,7 +37,7 @@ theorem isMask_maskOfWidth {o w : Nat} :
 
 /-- The mask constraint: the only fact about `m` surviving abstraction. -/
 theorem isMask_of_eq_maskOfWidth {o w : Nat} {m : BitVec o}
-    (hm : m = maskOfWidth o w) : IsMask m := by
+    (hm : m = maskOfWidth o w) : m &&& (m + 1#o) = 0#o := by
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean:31]: What is happening here? Is `IsMask` still used or should it be deleted? This should be explained in the commit message.

Also, does this mean the theorem name ought to change?

File: Veir/Data/PBV/Mask.lean [hunk 14]
```diff
@@ -55,11 +49,6 @@ theorem maskOfWidth_lt_maskOfWidth {o w₁ w₂ : Nat} (h₁ : w₁ ≤ o) (h₂
   have : 0 < 2 ^ w₁ := by grind
   lia
 
-/-- Strict width order becomes strict mask order. -/
-theorem mask_lt_mask {o w₁ w₂ : Nat} {m₁ m₂ : BitVec o} (h₁ : w₁ ≤ o) (h₂ : w₂ ≤ o)
-    (hm₁ : m₁ = maskOfWidth o w₁) (hm₂ : m₂ = maskOfWidth o w₂)
-    (hw : w₁ < w₂) : m₁ < m₂ := by
-  grind only [maskOfWidth_lt_maskOfWidth]
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean:62]: Why do we drop theorems?

File: Veir/Data/PBV/Mask.lean [hunk 15]
```diff
@@ -95,7 +84,12 @@ the index `i` is inbounds of `w`. -/
 
 /-- `signBitOfMask m` keeps only the top bit of the mask `m`.
 This is used to extract the sign bit of a width `o` bitvector. -/
-@[expose] def signBitOfMask {o : Nat} (m : BitVec o) := m - (m >>> 1)
+def signBitOfMask {o : Nat} (m : BitVec o) := m - (m >>> 1)
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean:71]: Why do we `unexpose` this? This also seems a bit unrelated.

File: Veir/Data/PBV/Push.lean [hunk 16]
```diff
@@ -67,7 +101,7 @@ theorem setWidth_signExtend_eq_and_maskOfWidth {t v o : Nat} (hvo : v ≤ o) :
 
 /-- `a.msb` can be implemented by masking the sign bit,
 which are definitions the bitblaster can see. -/
-theorem msb_eq_and_signBitOfMask_maskOfWidth_ne_zero {w o : Nat} (h : w ≤ o) :
+theorem msb_eq_and_signBitOfMask_maskOfWidth_ne_zero (o : Nat) {w : Nat} (h : w ≤ o) :
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Push.lean:104]: Why are explicit parameters before implicit ones? If there is a reason, this should be documented in the commit message.

File: Veir/Meta/PBVDecide.lean [hunk 17]
```diff
@@ -32,38 +44,65 @@ meta structure PbvTranslateContext where
...
+    let info : WidthInfo := {
+      widthName := name,
+      widthExpr := widthExpr,
+      widthMaskFvar := mask,
+      widthMaskHypFvar := maskHyp
+      hypWidthLeBoundMVarId := hypWidthLeBound.mvarId!,
+      hypWidthLeBoundNote
+    }
+    return (g, info, infos.push info)
+    -- return (g, infos)
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]: Remove comment?

File: Veir/Meta/PBVDecide.lean [hunk 18]
```diff
@@ -202,3 +352,23 @@ public meta def evalPbvDecide : Tactic := fun stx => do
...
+-- example (p q r : Nat) (x : BitVec p)
+--   (hr : q ≤ 8)
+--   (hpq : p < q) :
+--   (x.zeroExtend q).zeroExtend (q + q) = x.zeroExtend (q + q)
+--   := by
+--   pbv_decide 8
+--   · bv_decide
+--   · grind
+--   · grind
+--   · grind
```
Comment (tobiasgrosser) [inline Veir/Meta/PBVDecide.lean]: Do we need to track these TODO's in the repo. That does not seem like best-practice.

File: Veir/Data/PBV/Mask.lean (hunk 14 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Mask.lean:62]: It is moved to the `Push` file, since it is now used in the simp set to rewrite conditions on widths into conditions on masks.

File: Veir/Data/PBV/Mask.lean (hunk 15 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Mask.lean:71]: Because we introduced the `signBitOfMask_eq` theorem instead, so that is can be used for rewriting in the tactic simp set. This made the `@[expose]` on the def redundant.

File: Veir/Data/PBV/Push.lean (hunk 16 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Push.lean:104]: Reason documented in commit message.

File: Veir/Meta/PBVDecide.lean (hunk 18 above)
Comment (luigirinaldi) [reply Veir/Meta/PBVDecide.lean]: Agreed

**Comment by luigirinaldi** [comment]
Stale PR, superseded by #1311
